US04616014
2,5-Dimethyl-6-phenyl-1,2,4-triazin-3(2H)-one (3.2 g) was added to a stirred solution of benzylmagnesium chloride prepared from benzyl chloride (9.99 g) and magnesium turnings (1.92 g) in diethyl ether (48 ml) at room temperature. The reaction mixture was treated in a similar manner to that of Example 30 to give 5-benzyl-2,5-dimethyl-6-phenyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2.6 g), m.p. 174.2°~175.3° C. recrystallized from a mixture of chloroform and diisopropyl ether).

reactant | 2,5-Dimethyl-6-phenyl-1,2,4-triazin-3(2H)-one | 3.2 g | CN1N=C(C(=NC1=O)C)C1=CC=CC=C1 | C11H11N3O
reactant | benzylmagnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | benzyl chloride | 9.99 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | magnesium | 1.92 g | [Mg] | Mg
solvent | diethyl ether | 48 ml | C(C)OCC | C4H10O
product | 5-benzyl-2,5-dimethyl-6-phenyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2.6 g | C(C1=CC=CC=C1)C1(NC(N(N=C1C1=CC=CC=C1)C)=O)C | C18H19N3O
